US06313107B1
Isopropyl 4-bromobenzoate (Intermediate 62)
Using General Esterification Procedure A; 4-bromobenzoic acid (1.50 g, 7.46 mmols) was combined with isopropyl alcohol to give 1.76 g (97%) of the title compound as a colorless oil.

reactant | 4-bromobenzoic acid | 7.46 mmols, 1.50 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | Isopropyl 4-bromobenzoate | 1.76 g, 97% | BrC1=CC=C(C(=O)OC(C)C)C=C1 | C10H11BrO2
